US04698350
A 20 g portion of 6-amino-1-ethyl-1,4-dihydro-7-(2,6-dimethyl-4-pyridinyl)-4-oxo-3-quinolinecarboxylic acid monohydrate was suspended in 100 ml of 6 N HCl and placed in an ice/salt bath. When the temperature of the mixture had reached -10° C., a cold solution of 4.5 g of NaNO2 in 20 ml of H2O was added in portions over a period of a few minutes. The reaction mixture was stirred for 5-10 minutes during which time it became a clear solution. Hexafluorophosphoric acid (18 ml) was carefully added in one portion whereupon a precipitate separated immediately, the temperature rising to 0° C. before dropping again. The reaction mixture was stirred for 30 minutes after addition; and, then the precipitate was collected and washed successively with water, a small volume of cold ethanol, and finally with ether. The product was vacuum-dried at 50° C. for 48 hours in the presence of P2O5 to give 29.7 g (78%) of 3-carboxy-1-ethyl-1,4-dihydro-7-(2,6-dimethyl-4-pvridinyl)-4oxo-6-quinolinyldiazonium hexafluorophosphate as its hydrohexafluorophosphate, m.p. 200°-205° C. with decomposition.

reactant | 6-amino-1-ethyl-1,4-dihydro-7-(2,6-dimethyl-4-pyridinyl)-4-oxo-3-quinolinecarboxylic acid monohydrate | O.NC=1C=C2C(C(=CN(C2=CC1C1=CC(=NC(=C1)C)C)CC)C(=O)O)=O
reactant | NaNO2 | 4.5 g | N(=O)[O-].[Na+]
reactant | Hexafluorophosphoric acid | 18 ml | F[P-](F)(F)(F)(F)F.[H+]
solvent | HCl | 6 N, 100 ml | Cl | ClH
solvent | H2O | 20 ml | O | H2O
product | 3-carboxy-1-ethyl-1,4-dihydro-7-(2,6-dimethyl-4-pvridinyl)-4oxo-6-quinolinyldiazonium hexafluorophosphate | 29.7 g, 78% | F[P-](F)(F)(F)(F)F.C(=O)(O)C1=CN(C2=CC(=C(C=C2C1=O)[N+]#N)C1=CC(=NC(=C1)C)C)CC | InChI=1S/C19H16N4O3.F6P/c1-4-23-9-15(19(25)26)18(24)14-7-16(22-20)13(8-17(14)23)12-5-10(2)21-11(3)6-12;1-7(2,3,4,5)6/h5-9H,4H2,1-3H3;/q;-1/p+1
